US06211234B1
A stirred solution of tert-butyl 3-(3-formylphenyl)acrylate (5 g) in methanol (150 mL) at 0° C. is treated with sodium borohydride (0.38 g) portionwise. After stirring at 0° C. for 20 minutes the reaction mixture is partitioned between ethyl acetate (200 mL) and water (100 mL). The organic phase is separated, dried over magnesium sulphate and evaporated to give tert-butyl 3-(3-hydroxymethylphenyl)acrylate which is dissolved in dry toluene (50 mL) and treated with tris(triphenylphosphine)rhodium(I) chloride (80 mg) and triethylsilane (8 mL). The mixture is stirred at room temperature for 3 hours, left standing at room temperature for 18 hours and evaporated. The residue is purified by flash chromatography on silica eluting with a mixture of cyclohexane and ethyl acetate (4:1 v/v). Fractions homogeneous in the required product are combined and evaporated to give tert-butyl 3-(3-hydroxymethylphenyl)propionate (1.5 g).

reactant | tert-butyl 3-(3-formylphenyl)acrylate | 5 g | C(=O)C=1C=C(C=CC1)C=CC(=O)OC(C)(C)C | C14H16O3
reactant | sodium borohydride | 0.38 g | [BH4-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
product | tert-butyl 3-(3-hydroxymethylphenyl)acrylate | OCC=1C=C(C=CC1)C=CC(=O)OC(C)(C)C | C14H18O3
